US07368479B2
A solution of 2-amino-2-(4-chlorophenoxymethyl)-propionitrile (0.5 g, 0.24 mmol), 4-chlorophenyl-methylsulfonyl chloride (0.46 g, 2.4 mmol) and diazabicyclooctane (0.6 g, 2.4 mmol) in anhydrous tetrahydrofuran (20 ml) is stirred for about 16 hours. The reaction mixture is diluted with ethyl acetate and washed with brine. The organic phase is dried over magnesium sulfate and the raw product received as the residue is purified by flash chromato-graphy (eluent: ethyl acetate/hexanes 1:3) to give the 2-(4-chlorophenoxy-methyl)-2-(4-chlorophenyl-methylsulfonyl)-propionitrile in form of colorless crystals, m.p. 119-120° C.

reactant | 2-amino-2-(4-chlorophenoxymethyl)-propionitrile | 0.24 mmol, 0.5 g | NC(C#N)(C)COC1=CC=C(C=C1)Cl | C10H11ClN2O
reactant | 4-chlorophenyl-methylsulfonyl chloride | 2.4 mmol, 0.46 g | ClC1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6Cl2O2S
reactant | diazabicyclooctane | 2.4 mmol, 0.6 g | N1(NCCCCCC1)C1CCCCCCC1 | C14H28N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-chlorophenoxy-methyl)-2-(4-chlorophenyl-methylsulfonyl)-propionitrile | ClC1=CC=C(OCC(C#N)(C)S(=O)(=O)CC2=CC=C(C=C2)Cl)C=C1 | C17H15Cl2NO3S
